US08304371B2
Step 9: Synthesis of 1-{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methanamine (No. 11-18)
{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methyl methanesulfonate (0.7 g) was dissolved in a mixed solvent of THF (20 ml) and methanol (20 ml), and aqueous ammonia solution (28%, 20 ml) was added thereto. The mixture was stirred for 12 hour, and then added water. The mixture was extracted with ethyl acetate, and the organic layer was dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, to obtain the desired compound as crude product (0.48 g).

reactant | {4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methyl methanesulfonate | 0.7 g | CS(=O)(=O)OCC1=CC=C(C2=CC=CC=C12)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C23H18Cl2F3NO3S
reactant | water | O | H2O
reactant | ammonia | 20 ml | N | H3N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | 1-{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methanamine | ClC=1C=C(C=C(C1)Cl)C1(CN=C(C1)C1=CC=C(C2=CC=CC=C12)CN)C(F)(F)F | C22H17Cl2F3N2
